HW3 DC Sweep
* Circuit Parts
*For a-d calculations
V1 a d dc 1V
R1 a b 1k
R2 a d 1k
R3 a h 1k
R4 b e 1k
R5 b c 1k
R6 c f 1k
R7 e f 1k
R8 e h 1k
R9 h g 1k
R10 g f 1k
R11 g d 1k
R12 c d 1k
Rwire d 0 0
.control
* DC Sweep Analysis
dc V1 0.1 1 0.01
plot -V1#branch
plot v(a)/-V1#branch

.endc
*.options savecurrents 

.end